US07276511B2
Synthesis of tert-butyl[1-(3,4-dichlorophenyl)-1-formyl-3-butenyl]methylcarbamate
tert-Butyl[1-(3,4-dichlorophenyl)-1-hydroxymethyl-3-butenyl]methylcarbamate (45 g) was dissolved in anhydrous dimethyl sulfoxide (320 mL), and triethylamine (87 mL) was added thereto. Under cooling with ice, sulfur trioxide-pyridine (31.7 g) was added, and the resultant mixture was stirred for 1 hour at room temperature. Ice-water (650 mL) was added to the reaction mixture, followed by extraction with ethyl acetate (500 mL). The organic layer was washed with saturated brine, dried over sodium sulfate anhydrate, and concentrated under reduced pressure. The residue was purified through silica gel column chromatography (n-hexane:ethyl acetate=10:1), to thereby give the title compound (35.5 g, 77%).

reactant | tert-Butyl[1-(3,4-dichlorophenyl)-1-hydroxymethyl-3-butenyl]methylcarbamate | 45 g | C(C)(C)(C)OC(N(C)C(CC=C)(CO)C1=CC(=C(C=C1)Cl)Cl)=O | C17H23Cl2NO3
reactant | triethylamine | 87 mL | C(C)N(CC)CC | C6H15N
reactant | sulfur trioxide-pyridine | 31.7 g | N1=CC=CC=C1.S(=O)(=O)=O
solvent | dimethyl sulfoxide | 320 mL | CS(=O)C | C2H6OS
product | tert-butyl[1-(3,4-dichlorophenyl)-1-formyl-3-butenyl]methylcarbamate | 35.5 g, 77% | C(C)(C)(C)OC(N(C)C(CC=C)(C=O)C1=CC(=C(C=C1)Cl)Cl)=O | C17H21Cl2NO3
